US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine with 2,5-dimethyl-4-hydroxyaniline gave N2-(2,5-dimethyl-4-hydroxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.69 (d, 1H, J=3.9 Hz), 7.16 (d, 1H, J=2.4 Hz), 7.05 (d, 1H, J=2.4 Hz), 7.02 (d, 1H, J=1.2 Hz), 6.66 (s, 1H), 6.63 (s, 1H), 6.62 (s, 1H), 4.19 (s, 4H), 2.12 (s, 3H), 2.10 (s, 3H); LCMS: ret. time: 19.80 min.; purity: 90%; MS (m/e): 383 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 2,5-dimethyl-4-hydroxyaniline | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
product | N2-(2,5-dimethyl-4-hydroxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | CC1=C(C=C(C(=C1)O)C)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C20H19FN4O3
